US20010025042A1
Part D: To 1-(tert-butoxycarbonyl)-7-bromo-5-methoxyindoline (1.16 g) in methanol (28 mL) was added HCl/ether (1.0 M, 14.1 mL, 4 eq.). The reaction was heated at 55° C. for 4 hours and then cooled to room temperature. Water (25 mL) was added and the pH was adjusted to 9 with NaOH (1 N, aq.). The mixture was extrated with ether, which was washed with brine, dried over MgSO4, and concentrated to give 7-bromo-5-methoxyindoline (685 mg).

reactant | 1-(tert-butoxycarbonyl)-7-bromo-5-methoxyindoline | 1.16 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC(=C12)Br)OC | C14H18BrNO3
reactant | HCl ether | 1.0 M, 14.1 mL, 4 eq. | Cl.CCOCC
reactant | Water | 25 mL | O | H2O
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | methanol | 28 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 7-bromo-5-methoxyindoline | 685 mg | BrC=1C=C(C=C2CCNC12)OC | C9H10BrNO
